US07598398B2
Step A. Ethyl 1-(4-tert-butylbenzyl)-5-chloro-1H-indole-2-carboxylate
To a solution of ethyl 5-chloroindole-2-carboxylate (4.50 g, 20.1 mmol) in DMF (50 mL) was added NaH (885 mg, 60% suspension in mineral oil, 22.1 mmol). After 20 min, 4-tert-butylbenzyl bromide (4.07 mL, 22.1 mmol) was added. After 3 h, the reaction mixture was quenched by addition of sat. aq. NH4Cl. The aqueous phase was extracted with EtOAc, and the organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. Purification by flash chromatography on silica gel (0 to 20%, then 20 to 100% EtOAc in hexanes) provided the title compound: LCMS B, tr=3.18 min, m/z 370.2 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 7.71 (d, J=2.0 Hz, 1H), 7.35 (s, 1H), 7.33-7.27 (m, 4H), 7.01 (d, J=8.0 Hz, 2H), 5.84 (s, 2H), 4.38 (q, J=7.0 Hz, 2H), 1.41 (t, J=7.0 Hz, 3H), 1.30 (s, 9H).

reactant | ethyl 5-chloroindole-2-carboxylate | 20.1 mmol, 4.50 g | ClC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10ClNO2
reactant | NaH | 22.1 mmol, 885 mg | [H-].[Na+]
reactant | 4-tert-butylbenzyl bromide | 22.1 mmol, 4.07 mL | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-(4-tert-butylbenzyl)-5-chloro-1H-indole-2-carboxylate | C(C)(C)(C)C1=CC=C(CN2C(=CC3=CC(=CC=C23)Cl)C(=O)OCC)C=C1 | C22H24ClNO2
